US09359359B2
To a solution of (E)-N′-(1-(4-methoxybenzyl)-3-methyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl)-N,N-dimethylformimidamide (7.8 g, 24.7 mmol) in methanol (90 mL) was added ammonium hydroxide (155 mL, 28% wt/wt) and the mixture was stirred at room temperature for 48 h. The reaction was concentrated to give crude product which was purified by silica gel chromatography eluting with methanol/DCM (1:15) to give 6-amino-3-(4-methoxybenzyl)-1-methylpyrimidine-2,4(1H,3H)-dione (4.3 g, 66.6%) as yellow solid. LCMS retention time 0.445 min; LCMS MH+ 262.

reactant | (E)-N′-(1-(4-methoxybenzyl)-3-methyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl)-N,N-dimethylformimidamide | 24.7 mmol, 7.8 g | COC1=CC=C(CN2C(N(C(=CC2=O)/N=C/N(C)C)C)=O)C=C1 | C16H20N4O3
reactant | ammonium hydroxide | 155 mL | [OH-].[NH4+]
solvent | methanol | 90 mL | CO | CH4O
product | 6-amino-3-(4-methoxybenzyl)-1-methylpyrimidine-2,4(1H,3H)-dione | 4.3 g, 66.6% | NC1=CC(N(C(N1C)=O)CC1=CC=C(C=C1)OC)=O | C13H15N3O3
